US05076828
A four-necked flask fitted with stirrer and condenser means was charged with 40.5 g of oleylmethyldihydroxyethylammonium chloride, 12.0 g of potassium glycolate and 200 g of isobutyl alcohol and the reaction was conducted at 80°-85° C. in an atmosphere of nitrogen gas introduced at a low flow rate for 7 hours. The precipitate was then collected by filtration and washed with 30 ml of isobutyl alcohol. The filtrate and the washings were combined and concentrated under reduced pressure. The residue was dissolved in 200 g of toluene and filtered. The filtrate was then concentrated to give 41.0 g (theoretical yield 44.3 g) of oleylmethyldihydroxyethylammonium glycolate as a waxy product. The elemental analysis and infrared absorption data are given below.

reactant | oleylmethyldihydroxyethylammonium chloride | 40.5 g | [Cl-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O
reactant | potassium glycolate | 12.0 g | C(CO)(=O)[O-].[K+]
solvent | isobutyl alcohol | 200 g | C(C(C)C)O | C4H10O
product | oleylmethyldihydroxyethylammonium glycolate | 41.0 g | C(CO)(=O)[O-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O | InChI=1S/C21H43NO2.C2H4O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-20-21(23)24;3-1-2(4)5/h9-10,21-24H,2-8,11-20H2,1H3;3H,1H2,(H,4,5)/b10-9-;
